US07863449B2
Synthesis of benzyl 3-oxo-8-azabicyclo[3.2.1]octane-8-carboxylate
8-azabicyclo[3.2.1]octan-3-one (5.10 g; 31.55 mmol) was dissolved in CH2Cl2 (50 mL) and treated with benzyl chloroformate (4.29 mL; 5.11 g; 29.98 mmol) DIPEA (16.48 mL; 12.23 g; 94.66 mmol) was added drop-wise (exothermic reaction). The resulting clear solution was allowed to stir at room temperature for 30 min and was subsequently diluted with 100 mL CH2Cl2. The organic phase was washed with 1 N HCl (2×100 mL), dried on Na2SO4 and concentrated to provide the crude product (7.2 g). 1H-NMR (400 MHz, CDCl3) δ 7.38 (m, 5H), 5.22 (s, 2H), 4.62 (s, 2H), 2.67 (m, 2H), 2.38 (d, J=15.9 Hz, 2H), 2.12 (m, 2H), 1.71 (dd, J=15.0, 7.2 Hz, 2H).

reactant | 8-azabicyclo[3.2.1]octan-3-one | 31.55 mmol, 5.10 g | C12CC(CC(CC1)N2)=O | C7H11NO
reactant | benzyl chloroformate | 29.98 mmol, 4.29 mL, 5.11 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | DIPEA | 94.66 mmol, 16.48 mL, 12.23 g | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | benzyl 3-oxo-8-azabicyclo[3.2.1]octane-8-carboxylate | 7.2 g | O=C1CC2CCC(C1)N2C(=O)OCC2=CC=CC=C2 | C15H17NO3
